US07087601B2
2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole (150 mg, 0.39 mmol), morpholine (41 μL, 0.47 mmol), Pd2(dba)3 (8.2 mg, 0.0078 mmol), BINAP (9.8 mg, 0.016 mmol), and NaOtBu (53 mg, 0.55 mmol) were combined in a sealable tube evacuated and backfilled with argon. Toluene (4 mL) was added and the mixture was degassed with a stream of argon for 5 min. The tube was sealed and the mixture was heated to 70° C. for 18 h. Crude mixture was adsorbed onto silica gel and purified by automated flash chromatography using an EtOAc/hexanes gradient to afford the desired 2-[3-methoxy-4-(6-morpholin-4-ylpyridin-2-yl)phenyl]-1,3-benzoxazole as an orange solid: 1H NMR (CDCl3, 300 MHz) δ 8.07–8.05 (d, 1H), 7.96–7.95 (m, 1H), 7.88 (s, 1H), 7.83–7.78 (m, 1H), 7.65–7.58 (m, 2H), 7.42–7.36 (m, 3H), 6.65–6.62 (d, 1H), 4.02 (s, 3H), 3.88–3.85 (t, 4H), 3.61–3.58 (t, 4H). MS (ESI) 388 (M+H)+.

reactant | 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | 0.39 mmol, 150 mg | BrC1=CC=CC(=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13BrN2O2
reactant | morpholine | 0.47 mmol, 41 μL | N1CCOCC1 | C4H9NO
reactant | BINAP | 0.016 mmol, 9.8 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 0.55 mmol, 53 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.0078 mmol, 8.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[3-methoxy-4-(6-morpholin-4-ylpyridin-2-yl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1C1=NC(=CC=C1)N1CCOCC1)C=1OC2=C(N1)C=CC=C2 | C23H21N3O3
